US07220856B2
Preparation of 7-Chloro-4-[4-[4-(6-methylbenzothiazol-2-yl)phenylaminocarbonyl]piperazin-1-yl]quinoline
As described for 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline, 7-chloro-4-(piperazin-1-yl)quinoline (120 mg, 0.49 mmol), diisopropyl(ethyl)amine (127 mg, 0.98 mmol), and 4-(6-methyl-2-benzothiazolyl)phenyl isocyanate (100 mg, 0.38 mmol) are reacted to give the title product after flash chromatography with CH2Cl2-MeOH.

reactant | 7-chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H18ClF3N4O
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.49 mmol, 120 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | diisopropyl(ethyl)amine | 0.98 mmol, 127 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(6-methyl-2-benzothiazolyl)phenyl isocyanate | 0.38 mmol, 100 mg | CC1=CC2=C(N=C(S2)C2=CC=C(C=C2)N=C=O)C=C1 | C15H10N2OS
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 7-Chloro-4-[4-[4-(6-methylbenzothiazol-2-yl)phenylaminocarbonyl]piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C | C28H24ClN5OS
